US07576108B2
b: (Z)-2-Bromo-3-cyclohexyl-acrylic acid ethyl ester
Add a solution of bromine (43.5 mL, 848 mmol) in carbon tetrachloride (500 mL) to a solution of 3-cyclohexyl-acrylic acid ethyl ester (154.5 g, 848 mmol) in dichloromethane cooled to −10° C. such that the temperature does not exceed 0° C. Stir the reaction mixture for 2 h at −10° C., and then add triethylamine (143 mL, 1.02 mol), again such that the temperature does not exceed 0° C. Allow the stirred reaction mixture to warm to r.t. overnight. Then dilute it with dichloromethane (500 mL), cool the resulting mixture to 0° C., and adjust the pH to a value of less than 2 by the careful addition of 1 N aqueous hydrochloric acid. Separate the resulting two layers, and extract the aqueous phase with dichloromethane (1 L). Combine the extract and the first organic layer, dry them over magnesium sulfate, and concentrate them under vacuum to afford a yellow oil. Apply a solution of this oil in dichloromethane to a silica gel column, and elute with a 1:1 mixture of dichloromethane and cyclohexane to afford the title compound as a yellow oil (103.5 g). MS (m/e): 262 (M+H).

reactant | bromine | 848 mmol, 43.5 mL | BrBr | Br2
reactant | 3-cyclohexyl-acrylic acid ethyl ester | 848 mmol, 154.5 g | C(C)OC(C=CC1CCCCC1)=O | C11H18O2
reactant | triethylamine | 1.02 mol, 143 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | carbon tetrachloride | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | (Z)-2-Bromo-3-cyclohexyl-acrylic acid ethyl ester | 103.5 g | C(C)OC(/C(=C/C1CCCCC1)/Br)=O | C11H17BrO2
